US04242440
A mixture of 2 parts cuprous chloride, 12 parts methanol, and 4 parts N,N,N',N'-tetramethylethylenediamine was prepared. To this mixture was added 5,7,11-dodecatriyn-1-ol, produced in Example 22, dissolved in 12 parts methanol over a period of 15 minutes while oxygen was moderately bubbled through the reaction contents. After 1 hour, oxygen flow was stopped and the methanol was distilled leaving a semi-viscous residue. To this was added 100 parts of 3 N hydrochloric acid while stirring, causing product to precipitate. It was collected by filtration, washed once with 25 parts 2 N hydrochloric acid and several times with water. The solid was dissolved in 200 parts xylene and the solution was refrigerated at -8° C. Subsequent crystallization and filtration yielded 6.0 parts of fluffy product, CF4 diol, which turns blue in daylight. The melting point of the material was 101.0° to 104.1° C.

reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | 5,7,11-dodecatriyn-1-ol | C(CCCC#CC#CCCC#C)O | C12H14O
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | methanol | CO | CH4O
solvent | oxygen | O=O | O2
product | 5,7,11,13,17,19-tetracosahexayn-1,24-diol | C(CCCC#CC#CCCC#CC#CCCC#CC#CCCCCO)O | C24H26O2
